US07960369B2
methyl 3-[4-[[4-[[(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propionate
To a solution of 4-phenyl-1,3-thiazol-2-amine (0.25 g, 1.4 mmol), methyl 3-[4-[(4-formylbenzyl)oxy]phenyl]propionate (0.58 g, 2.0 mmol) and acetic acid (0.25 g, 4.2 mmol) in 1,2-dichloroethane (15 mL) was added triacetoxysodium borohydride (0.83 g, 3.9 mmol), and the mixture was stirred at room temperature for 2 days. The reaction mixture was poured into aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4:1) to give the title compound (0.31 g, yield 49%) as an oil.

reactant | 4-phenyl-1,3-thiazol-2-amine | 1.4 mmol, 0.25 g | C1(=CC=CC=C1)C=1N=C(SC1)N | C9H8N2S
reactant | methyl 3-[4-[(4-formylbenzyl)oxy]phenyl]propionate | 2.0 mmol, 0.58 g | C(=O)C1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H18O4
reactant | acetic acid | 4.2 mmol, 0.25 g | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | methyl 3-[4-[[4-[[(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propionate | 0.31 g, yield 49% | C1(=CC=CC=C1)C=1N=C(SC1)NCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C27H26N2O3S
